US08138178B2
(S)-6-(2-hydroxyethyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-3-((S)-1-(4-bromophenyl)propyl)-6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-2-one following a procedure analogous to that described in Example 18 using 5-bromo-1-methylpyridin-2(1H)-one in Step 2. LC-MS Method 2 tR=1.627 min, m/z=447.1; 1H NMR (CDCl3) 1.06 (m, 3H), 1.87-2.06 (m, 2H), 2.11-2.28 (m, 2H), 2.33 (m, 3H), 2.96 (m, 1H), 3.53 (m, 1H), 3.62 (s, 3H), 3.78 (m, 1H), 5.48 (m, 1H), 6.69 (m, 1H), 7.03 (m, 2H), 7.14 (m, 2H), 7.21-7.38 (m, 4H), 7.41 (s, 1H), 7.56 (m, 1H).

reactant | (S)-3-((S)-1-(4-bromophenyl)propyl)-6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](CC)N1C(O[C@](CC1)(C1=CC=CC=C1)CCO)=O | C21H24BrNO3
reactant | 5-bromo-1-methylpyridin-2(1H)-one | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
product | (S)-6-(2-hydroxyethyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)propyl)-6-phenyl-1,3-oxazinan-2-one | OCC[C@@]1(CCN(C(O1)=O)[C@@H](CC)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1 | C27H30N2O4
